US04225604
2-Formyl-3-methylquinoxaline-1,4-dioxide cyanoacetylhydrazone
A suspension comprising 20.4 grams (0.1 mole) of 2-formyl-3-methylquinoxaline-1,4-dioxide (m.p. of 180°-182° C.) and 9.9 grams (0.1 mole) of cyanoacetylhydrazine in 200 ml of ethanol was stirred for 4 hours at room temperature. The separated product was sucked off and washed with ethanol, so yielding 22.2 grams (78% of theoretical) of crude material. Upon crystallization from dimethylformamide, yellow crystals melting at a temperature within the range of 255°-260° C. were obtained.

reactant | 2-formyl-3-methylquinoxaline-1,4-dioxide | 0.1 mole, 20.4 grams | C(=O)C1=[N+](C2=CC=CC=C2[N+](=C1C)[O-])[O-] | C10H8N2O3
reactant | cyanoacetylhydrazine | 0.1 mole, 9.9 grams | C(#N)CC(=O)NN | C3H5N3O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Formyl-3-methylquinoxaline-1,4-dioxide cyanoacetylhydrazone | C(#N)CC(=O)NN=CC1=[N+](C2=CC=CC=C2[N+](=C1C)[O-])[O-] | C13H11N5O3
